*************************************************
**conventional_PFD.sp
**conventional PFD code for REU 
**2024/09/27 Kim Junhyung
*************************************************
.include "/home/under_design6/hspice/mysource/inverter.sp"

.lib '/home/lib/tsmc018.prm' TT

.param  vdd = 1.0 
.param  trf = 10p
.param  pmos_w = 0.54u
.param  pmos_l = 0.18u
.param  nmos_w = 0.36u
.param  nmos_l = 0.18u

.option post node list
.TEMP   25
************************************************

**Set the voltage node from voltage source, vdd, vss, current source
v_vdd		n_vdd		0		vdd
v_vss		n_vss		0		0
v_ref		n_ref		n_vss		pulse(0v	vdd	100p	trf	trf	500p	1n)
v_clk		n_clk		n_vss		pulse(0v	vdd	0	    trf	trf	500p	1n)


$$ PFD Circuit $$

*upper DFF
mp_u11    n_vdd       RST         t1          n_vdd       pch     L=pmos_l    W=pmos_w
mp_u12    t1          n_ref       t2          n_vdd       pch     L=pmos_l    W=pmos_w
mp_u13    n_vss       RST         t2          n_vss       nch     L=nmos_l    W=nmos_w

mp_u21    n_vdd       t2          UP_bar      n_vdd       pch     L=pmos_l    W=pmos_w
mn_u22    t4          n_ref       UP_bar      n_vss       nch     L=nmos_l    W=nmos_w
mn_u23    n_vss       t2          t4          n_vss       nch     L=nmos_l    W=nmos_w

x_I1    UP_bar      n_UP        n_vdd       n_vss   inverter

*lower DFF
mp_d11    n_vdd       RST         t1          n_vdd       pch     L=pmos_l    W=pmos_w
mp_d12    t1          n_clk       t2          n_vdd       pch     L=pmos_l    W=pmos_w
mp_d13    n_vss       RST         t2          n_vss       nch     L=nmos_l    W=nmos_w

mp_d21    n_vdd       t2          DN_bar      n_vdd       pch     L=pmos_l    W=pmos_w
mn_d22    t4          n_clk       DN_bar      n_vss       nch     L=nmos_l    W=nmos_w
mn_d23    n_vss       t2          t4          n_vss       nch     L=nmos_l    W=nmos_w

x_I2    DN_bar      n_DN        n_vdd       n_vss   inverter

*gate
MP1     n_vdd       UP_bar      n_temp1     n_vdd       pch     L=pmos_l    W=pmos_w
MP2     n_temp1     DN_bar      n_temp2     n_temp1     pch     L=pmos_l    W=pmos_w
MN1     n_vss       UP_bar      n_temp2     n_vss       nch     L=nmos_l    W=nmos_w
MN2     n_vss       DN_bar      n_temp2     n_vss       nch     L=nmos_l    W=nmos_w

*I5
x_I5    n_temp2     I5_out      n_vdd       n_vss       inverter

*I6
x_I6    I5_out      RST         n_vdd       n_vss       inverter

*************************************************
$$ simulation $$

* 전력 소모 측정
.MEASURE TRAN avg_power AVG P(v_vdd) FROM=5n TO=10n

* Setup Time 측정
.MEASURE TRAN tsu_value TRIG v(n_ref)=0.9 RISE=1 TARG v(n_clk)=0.9 RISE=1

* Reset Time 측정
.MEASURE TRAN reset_time TRIG v(I5_out)=0.9 RISE=1 TARG v(RST)=0.9 RISE=1

* 트랜지언트 분석 시간 설정
.tran 0.5p 100n

*************************************************

.end
