*************************************************
**conventional_PFD.sp
**conventional PFD code for REU 
**2024/09/27 Kim Junhyung
*************************************************
.include "/home/under_design6/hspice/mysource/DFF2.sp"
.include "/home/under_design6/hspice/mysource/inverter.sp"

.lib '/home/lib/tsmc018.prm' TT

.param  vdd = 1.0 
.param  trf = 10p
.param  pmos_w = 0.54u
.param  pmos_l = 0.18u
.param  nmos_w = 0.36u
.param  nmos_l = 0.18u

.option post node list
.TEMP   25
************************************************

**Set the voltage node from voltage source, vdd, vss, current source
v_vdd		n_vdd		0		vdd
v_vss		n_vss		0		0
v_ref		n_ref		n_vss		pulse(0v	vdd	0	    trf	trf	500p	1n)
v_clk		n_clk		n_vss		pulse(0v	vdd	100p	trf	trf	500p	1n)


$$ PFD Circuit $$

*upper DFF
x_DFF1  n_vdd       n_ref       RST         n_UP        n_vdd   n_vss     DFF2

*lower DFF
x_DFF2  n_vdd       n_clk       RST         n_DN        n_vdd   n_vss     DFF2

*gate
MP1     n_vdd       n_UP        n_temp1     n_vdd       pch     L=pmos_l    W=pmos_w
MP2     n_vdd       n_DN        n_temp1     n_vdd       pch     L=pmos_l    W=pmos_w
MN1     n_temp2     n_UP        n_temp1     n_vss       nch     L=nmos_l    W=nmos_w
MN2     n_vss       n_DN        n_temp2     n_vss       nch     L=nmos_l    W=nmos_w

*I5
x_I5    n_temp1     RST     n_vdd       n_vss       inverter

*************************************************
$$ simulation $$

* 전력 소모 측정
.MEASURE TRAN avg_power AVG P(v_vdd) FROM=5n TO=10n

* Setup Time 측정
.MEASURE TRAN tsu_value TRIG v(n_ref)=0.9 RISE=1 TARG v(n_clk)=0.9 RISE=1

* Reset Time 측정
.MEASURE TRAN reset_time TRIG v(I5_out)=0.9 RISE=1 TARG v(RST)=0.9 RISE=1

* 트랜지언트 분석 시간 설정
.tran 0.01p 200n

*************************************************

.end
